US04584304
(6-PHENOXY-2-PYRIDINYL)METHYL 2,2-DIMETHYL-3-((ISOBUTOXYIMINO)METHYL)CYCLOPROPANECARBOXYLATE
To a stirred solution of 0.75 g of (1R,cis)-2,2-dimethyl-3-((isobutoxyimino)methyl)cyclopropanecarboxylic acid, 0.71 g of 6-phenoxy-2-pyridinemethanol and a catalytic amount of 4-dimethylaminopyridine in 40 ml of methylene chloride under argon was added as one portion 1.19 g of N,N-dicyclohexylcarbodiimide. The reaction mixture was stirred at ambient temperature overnight, then diluted with an equal volume of hexane, filtered and stripped. The resulting oil was dissolved in hexane, filtered, washed with dilute potassium carbonate solution, dried and stripped. The crude product was chromatographed using 20% diethyl ether in hexane as eluent to yield 1.0 g of the desired product.

reactant | (1R,cis)-2,2-dimethyl-3-((isobutoxyimino)methyl)cyclopropanecarboxylic acid | 0.75 g | CC1([C@@H]([C@@H]1C=NOCC(C)C)C(=O)O)C | C11H19NO3
reactant | 6-phenoxy-2-pyridinemethanol | 0.71 g | O(C1=CC=CC=C1)C1=CC=CC(=N1)CO | C12H11NO2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | (6-PHENOXY-2-PYRIDINYL)METHYL 2,2-DIMETHYL-3-((ISOBUTOXYIMINO)METHYL)CYCLOPROPANECARBOXYLATE | 1.0 g | CC1(C(C1C=NOCC(C)C)C(=O)OCC1=NC(=CC=C1)OC1=CC=CC=C1)C | C23H28N2O4
